US07754729B2
1) Preparation of 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetyl chloride hydrochloride
2.4 g of 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetic acid was dissolved in 20 mL of thionyl chloride, refluxed for 2 hours, evaporated in vacuo to remove thionyl chloride and give a solid product.

reactant | 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetic acid | 2.4 g | COCCN1CCC(CC1)=CC(=O)O | C10H17NO3
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetyl chloride hydrochloride | Cl.COCCN1CCC(CC1)=CC(=O)Cl | InChI=1S/C10H16ClNO2.ClH/c1-14-7-6-12-4-2-9(3-5-12)8-10(11)13;/h8H,2-7H2,1H3;1H
